US07816522B2
To 2 ml of a DMF solution containing 75 mg of {2-(5-ethoxy-2-fluoro-3-hydroxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester, 100 mg of potassium carbonate and 0.1 ml of 2-(2-bromoethoxy)tetrahydro-2H-pyran were added. The resulting mixture was stirred at room temperature for 10 hours, and then water was added thereto. The mixture was extracted with ethyl acetate. The organic layer was washed with water and then dried through PRESEP™. The filtrate was concentrated, and the residue was purified by silica gel column chromatography (ethyl acetate-heptane) to give {2-{5-ethoxy-2-fluoro-3-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl}-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester (51 mg) as a yellow oil.

reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
reactant | {2-(5-ethoxy-2-fluoro-3-hydroxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester | 75 mg | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=C(C(=CC(=C1)OCC)O)F)SC)=O | C22H21FN4O5S
reactant | potassium carbonate | 100 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(2-bromoethoxy)tetrahydro-2H-pyran | 0.1 ml | BrCCOC1OCCCC1 | C7H13BrO2
solvent | water | O | H2O
product | {2-{5-ethoxy-2-fluoro-3-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl}-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester | 51 mg | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=C(C(=CC(=C1)OCC)OCCOC1OCCCC1)F)SC)=O | C29H33FN4O7S
